US04851526
N-[3-(Morpholin-4-yl)butyl]-4-nitrobenzenamine
In a manner similar to Preparation 2, react 4-nitrobenzenamine with 3-(morpholin-4-yl)-1-butanol methanesulfonate to obtain the title compound.

reactant | 4-nitrobenzenamine | [N+](=O)([O-])C1=CC=C(C=C1)N | C6H6N2O2
reactant | 3-(morpholin-4-yl)-1-butanol methanesulfonate | CS(=O)(=O)OCCC(C)N1CCOCC1 | C9H19NO4S
product | N-[3-(Morpholin-4-yl)butyl]-4-nitrobenzenamine | N1(CCOCC1)C(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C14H21N3O3
